US07109216B2
Part A: N-(4-methoxyphenyl)-2,4-dichlorobenzenecarboxamidine (15.0 gram, 50.8 mmol) is dissolved in 2-propanol and ethyl 3-bromo-2-oxobutanoate (23.5 g, 2 molar equivalents) and NaHCO3 (8.5 gram, 2 molar equivalents) are successively added. The resulting mixture is heated at reflux temperature for 40 hours and allowed to attain room temperature. The 2-propanol is removed in vacuo, ethyl acetate is added to the residue and the resulting organic layer is washed with NaHCO3 (5% aqueous solution). The ethylacetate layer is collected, dried over Na2SO4, filtered and concentrated in vacuo. The resulting oil is purified by column chromatography (diethyl ether/petroleum ether=1/3 (v/v), silicagel) to give ethyl 2-(2,4-dichlorophenyl)-5-methyl-1-(4-methoxy-phenyl)-1H-imidazole-4-carboxylate (8.61 g, 42% yield) as a solid. 1H-NMR (200 MHz, CDCl3): δ 7.33 (d, J=8 Hz, 1H), 7.27 (d, J=2 Hz, 1H), 7.18 (dd, J=8 Hz, J=2 Hz, 1H), 7.03 (dt, J=8 Hz, J=2 Hz, 2H), 6.85 (dt, J=8 Hz, J=2 Hz, 2H), 4.42 (q, J=7 Hz, 2H), 3.80 (s, 3H), 2.43 (s, 3H), 1.43 (t, J=7 Hz, 3H).

reactant | N-(4-methoxyphenyl)-2,4-dichlorobenzenecarboxamidine | 50.8 mmol, 15.0 gram | COC1=CC=C(C=C1)NC(=N)C1=C(C=C(C=C1)Cl)Cl | C14H12Cl2N2O
reactant | ethyl 3-bromo-2-oxobutanoate | 2 molar, 23.5 g | BrC(C(C(=O)OCC)=O)C | C6H9BrO3
reactant | NaHCO3 | 2 molar, 8.5 gram | C(=O)(O)[O-].[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
product | ethyl 2-(2,4-dichlorophenyl)-5-methyl-1-(4-methoxy-phenyl)-1H-imidazole-4-carboxylate | 8.61 g, 42% yield | ClC1=C(C=CC(=C1)Cl)C=1N(C(=C(N1)C(=O)OCC)C)C1=CC=C(C=C1)OC | C20H18Cl2N2O3
